US20010020034A1
3-(2,5-Difluoro-4-methyl-benzyloxy)-5-{3-[4-(2-hydroxymethyl-pyrrolidin-1-yl)-butyl] -ureido}-isothiazole-4-carboxylic acid amide
The title compound was prepared from [4-carbamoyl-3-(2,5-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester and (S)-[1-(4-amino-butyl)-pyrrolidin-2-yl]-methanol by the procedure analogous to Example 6. HPLC ret. time: 3.2 minutes. 1H NMR (400 MHz, CD3OD) δ 7.18 (dd, 1H, J=6.0, 9.2 Hz), 7.04 (dd, 1H, J=6.4, 10 Hz), 5.45 (s, 2H), 3.62-3.56 (m, 2H), 3.29-3.23 (m, 2H), 3.02 (m, 1H), 2.78 (m, 1H), 2.83 (m, 1H), 2.51 (m, 2H), 2.24 (d, 3H, J=1.6 Hz), 2.02 (m, 1H), 1.88-1 .56 (m, 7H) ppm; MS (APCl, m/z): 498 [M+H]+.

reactant | [4-carbamoyl-3-(2,5-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)OCC1=C(C=C(C(=C1)F)C)F)C(N)=O)=O | C19H15F2N3O4S
reactant | (S)-[1-(4-amino-butyl)-pyrrolidin-2-yl]-methanol | NCCCCN1[C@@H](CCC1)CO | C9H20N2O
product | 3-(2,5-Difluoro-4-methyl-benzyloxy)-5-{3-[4-(2-hydroxymethyl-pyrrolidin-1-yl)-butyl] -ureido}-isothiazole-4-carboxylic acid amide | FC1=C(COC2=NSC(=C2C(=O)N)NC(=O)NCCCCN2C(CCC2)CO)C=C(C(=C1)C)F | C22H29F2N5O4S
